US06433168B1
(E)-10-(1-Azabicyclo[2.2.2]oct-3-ylidenemethyl)phenothiazine (10.00 g, 0.0312 mol), acetic acid (2.25 g, 0.0374 mol) and 10% palladium carbon (2.00 g, water content 50%) were added to methanol (158 g) and the mixture was stirred under pressurization with hydrogen (3-5 kg/cm2, hydrogen gas amount:equimolar amount relative to starting material) at 45-50° C. for 8 hr. The obtained reaction mixture was subjected to HPLC. As a result, the starting material was not detected but highly pure mequitazine was quantitatively obtained.

reactant | (E)-10-(1-Azabicyclo[2.2.2]oct-3-ylidenemethyl)phenothiazine | 0.0312 mol, 10.00 g | N12C\C(\C(CC1)CC2)=C\N2C1=CC=CC=C1SC=1C=CC=CC21 | C20H20N2S
reactant | acetic acid | 0.0374 mol, 2.25 g | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 2.00 g | [C].[Pd]
solvent | methanol | 158 g | CO | CH4O
product | mequitazine | C=1C=CC2=C(C1)N(C=3C=CC=CC3S2)CC45CCN(CC4)CC5 | C20H22N2S
